US08431568B2
To a solution of 10-cyclohexyl-4H-imidazo[1,2-a]indolo[1,2-d][1,4]benzodiazepine-7-carboxylic acid (25 mg, 0.063 mmol) and N,N-dimethylsulfamide (41 mg, 0.33 mmol) in DMF (1.5 mL), was added DMAP (40 mg, 0.33 mmol) and then EDCI-HCl (50 mg, 0.26 mmol). The reaction mixture was stirred at 60° C. for 2 h, cooled to rt, diluted with DMSO and MeOH and purified by prep HPLC (MeOH/H2O with 10 mM TFA buffer) to yield 10-cyclohexyl-N-((dimethylamino)sulfonyl)-4H-imidazo[1,2-a]indolo[1,2-d][1,4]benzodiazepine-7-carboxamide (5.4 mg, 0.011 mmol, 17%) as a bright yellow solid. 1H NMR (500 MHz, CD3OD) δ 1.18-1.56 (m, 4H), 1.74-1.85 (m, 2H), 1.95-2.21 (m, 4H), 2.86-2.98 (m, 1H), 3.04 (s, 6H), 5.19 (d, J=16.1 Hz, 1H), 6.01 (d, J=16.1 Hz, 1H), 7.47 (d, J=2.2 Hz, 1H), 7.66 (dd, J=8.4, 1.5 Hz, 1H), 7.77-7.91 (m, 4H), 7.94 (d, J=1.8 Hz, 1H), 8.01 (d, J=8.4 Hz, 1H), 8.28 (s, 1H). LCMS: m/e 504 (M+H)+, ret time 1.81 min.

reactant | 10-cyclohexyl-4H-imidazo[1,2-a]indolo[1,2-d][1,4]benzodiazepine-7-carboxylic acid | 0.063 mmol, 25 mg | C1(CCCCC1)C1=C2C=C3N(C=C4N(C5=C3C=C(C=C5)C(=O)O)CC=N4)C2=CC=C1 | C25H23N3O2
reactant | N,N-dimethylsulfamide | 0.33 mmol, 41 mg | CN(S(=O)(=O)N)C | C2H8N2O2S
reactant | EDCI HCl | 0.26 mmol, 50 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.33 mmol, 40 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | MeOH | CO | CH4O
product | 10-cyclohexyl-N-((dimethylamino)sulfonyl)-4H-imidazo[1,2-a]indolo[1,2-d][1,4]benzodiazepine-7-carboxamide | 0.011 mmol, 5.4 mg, 17% | C1(CCCCC1)C1=C2C=C3N(C=C4N(C5=C3C=C(C=C5)C(=O)NS(=O)(=O)N(C)C)CC=N4)C2=CC=C1 | C27H29N5O3S
